US09120749B2
1-(4-(6-(3-aminopyrrolidin-1-yl)pyridin-3-ylamino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl)ethanone
Following general procedure D, tert-butyl 1-(5-(3-acetyl-6-bromoquinolin-4-ylamino) pyridin-2-yl)pyrrolidin-3-ylcarbamate (80 mg, 0.15 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (65 mg, 0.23 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (11 mg, 15% over two steps) as a yellow-brown: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.28 (s, 1H), 8.31-8.25 (m, 2H), 8.06-7.99 (m, 2H), 7.83 (dd, J=9.2, 2.7 Hz, 1H), 7.04 (d, J=2.2 Hz, 1H), 7.98 (d, J=9.2 Hz, 1H), 6.71 (d, J=2.2 Hz, 1H), 4.16-4.07 (m, 1H), 4.07-3.96 (m, 2H), 3.91 (s, 3H), 3.88-3.79 (m, 1H), 3.79-3.69 (m, 211), 2.80 (s, 3H), 2.63-2.53 (m, 1H), 2.34-2.23 (m, 1H); ESI MS m/z 504 [C27H26ClN5O3+H]+; HPLC 95.4% (AUC), tR=9.37 min.

reactant | tert-butyl 1-(5-(3-acetyl-6-bromoquinolin-4-ylamino) pyridin-2-yl)pyrrolidin-3-ylcarbamate | 0.15 mmol, 80 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O)Br | C25H28BrN5O3
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.23 mmol, 65 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | 1-(4-(6-(3-aminopyrrolidin-1-yl)pyridin-3-ylamino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl)ethanone | 11 mg, 15% | NC1CN(CC1)C1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)OC)O)Cl)C(C)=O | C27H26ClN5O3
